Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.575284144419999
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[O:4])[C:8]([H:9])=[C:10]([H:11])[H:12],1.93440445442
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.08827453805
[C:6]([H:7])[O:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],-1.0208429175799998
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2].[O:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],2.94177518741
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4],6.386387135930001
[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]1=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],3.02421295134
[C:5](#[C:9][H:10])[H:11].[H:1][C:2]([C:3]#[C:6][O:7][H:8])([H:4])[H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],0.565271180291
[C:6][H:7].[H:1][C:2]=[C:3]([H:4])[C:5][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-7.05993618605
[C:7]#[C:8][H:9].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-4.6253842122
[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-5.599519485469999
[C:1]#[C:5][H:3].[C:2]#[C:4][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4](=[C:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-2.4798113914
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.3128307355
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10][H:11]>>[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9],5.39379359173
[C:7]([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9],-2.49708183582
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.308292242401
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]=[C:4]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.24713498517
[H:1][O:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-2.13317850298
[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.81963083059
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2],8.5056943627
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],3.76287040646
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:5](=[O:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.23151775433
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.47666674481
[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-7.3347444519700025
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],3.6974006722
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3](=[C:4][H:5])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.43532014692
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]#[C:8][H:9].[H:1][C:2](=[C:3]=[C:4]([H:5])[C:10]([H:11])([H:12])[H:13])[H:6],2.70836099515
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:4].[O:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.44907045568
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.79165590555
